US04021569
Zinc chloride (Zn Cl2, 68.0g, 0.5 mol) was dissolved in water (68.0 g) and the solution was heated to 90° C. Methionine (74.6 g, 0.5 mol) was added and the temperature was kept at 90° C. for one hour to provide zinc methionine chloride solution. The product contained 21.2% zinc and 53.9% methionine. Quantitative and instrumental analysis as previously described revealed the presence of a 1:1 complex salt of zinc methionine chloride.

reactant | Zinc chloride | 0.5 mol, 68.0g | [Cl-].[Zn+2].[Cl-]
reactant | Methionine | 0.5 mol, 74.6 g | N[C@@H](CCSC)C(=O)O | C5H11NO2S
solvent | water | 68.0 g | O | H2O
product | zinc methionine chloride | N[C@@H](CCSC)C(=O)Cl.[Zn] | InChI=1S/C5H10ClNOS.Zn/c1-9-3-2-4(7)5(6)8;/h4H,2-3,7H2,1H3;/t4-;/m0./s1
